US03962259
Reaction of 2-bromo-4,5-dimethoxy-N-(1-hydroxy-2-methyl-2-propyl)benzamide and thionyl chloride by the method described in Example 1b provides 2-(2-bromo-4,5-dimethoxyphenyl)-4,4-dimethyl-2-oxazoline as colorless crystals, m.p. 49°-51°.

reactant | 2-bromo-4,5-dimethoxy-N-(1-hydroxy-2-methyl-2-propyl)benzamide | BrC1=C(C(=O)NC(CO)(C)C)C=C(C(=C1)OC)OC | C13H18BrNO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-(2-bromo-4,5-dimethoxyphenyl)-4,4-dimethyl-2-oxazoline | BrC1=C(C=C(C(=C1)OC)OC)C=1OCC(N1)(C)C | C13H16BrNO3
